US20010053779A1
2-[5-(1,3-Dioxo-1,3-dihydroisoindol-2-ylmethyl)-1H-benzoimidazol-2-ylmethyl]-1-methyl-1H-benzoimidazole-5-carboxylic acid (0.05 g, 0.108 mmol), 1-hydroxybenzotriazole (0.016 g, 0.11 8 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.023 g, 0.12 mmol) and the mono-BOC protected derivative of 1,3-diaminopropane were dissolved at 0° C. in methylene chloride (1 mL) and DMF (minimal amount sufficient to effect a solution). The solution was adjusted to pH-8 with N-methylmorpholine and the mixture was allowed to slowly warm to room temperature and then stirred for 20 hours. The mixture was transferred to a separatory finnel, diluted with methylene chloride, washed with 0.1N HCl solution and then saturated NaHCO3 solution, dried over sodium sulfate, filtered and concentrated. The residue was purified by preparatory TLC (10% methanol/ethyl acetate) to provide 2-[6-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-1H-benzoimidazol-2-ylmethyl]-1-methyl-N-(3-aminopropyl)-1H-benzoimidazole-5-carboxamide (0.02 g, 28% yield); 1H-NMR (300 Mhz, CDCL3): 7.75-7.81 (m, 4H), 7.61-7.68 (m, 3H), 7.33 (br s, 1H), 7.27 (d, 1H, J=8.6 Hz), 7.15 (d, 1H, J=9.3 Hz), 5.10 (br t, 1H), 4.90 (br s, 2H), 4.57 (s, 2H), 3.71 (s, 3H), 3.49 (q, 2H, J=7.2 Hz), 3.24 (q, 2H, J=7.2 Hz), 1.72 (m, 2H), 1.41 (s, 9H);

reactant | 2-[5-(1,3-Dioxo-1,3-dihydroisoindol-2-ylmethyl)-1H-benzoimidazol-2-ylmethyl]-1-methyl-1H-benzoimidazole-5-carboxylic acid | 0.108 mmol, 0.05 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC2=C(NC(=N2)CC2=NC3=C(N2C)C=CC(=C3)C(=O)O)C=C1 | C26H19N5O4
reactant | 1-hydroxybenzotriazole | 8 mmol, 0.016 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.12 mmol, 0.023 g | Cl.CN(CCCN=C=NCC)C
reactant | 1,3-diaminopropane | NCCCN | C3H10N2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[6-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-1H-benzoimidazol-2-ylmethyl]-1-methyl-N-(3-aminopropyl)-1H-benzoimidazole-5-carboxamide | 0.02 g, 28% yield | O=C1N(C(C2=CC=CC=C12)=O)CC=1C=CC2=C(NC(=N2)CC2=NC3=C(N2C)C=CC(=C3)C(=O)NCCCN)C1 | C29H27N7O3
